US07078414B2
0.795 g (33.1 mmol) of sodium is added at 20° C. under an argon atmosphere to 30 mL of methanol. After complete dissolution, 2.97 g (31.2 mmol) of guanidine hydrochloride are added. After stirring at 20° C. for 0.5 hour, the reaction mixture is filtered under an argon atmosphere. The filtrate is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue that is dissolved in 15 mL of 1,2-dimethoxyethane. 2 g of 3-chlorocarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole hydrochloride, suspended in 15 mL of 1,2-dimethoxyethane, are then added at 20° C. under an argon atmosphere. After stirring at 20° C. for 8 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue that is triturated in 100 mL of water for 16 hours. After filtering off and drying the solid residue under reduced pressure (2.7 kPa), a residue is obtained, which residue is purified by flash chromatography [eluent: dichloromethane/methanol/acetonitrile (86/7/7 by volume) and then dichloromethane/methanol/20% aqueous ammonia (96/24/2 by volume)]. After concentrating the fractions under reduced pressure, a beige-coloured solid is obtained, which solid is triturated in 100 mL of N hydrochloric acid for 15 hours. After filtration, the solid residue is recrystallised under hot conditions from 30 mL of methanol to give 0.82 g of 3-guanidinocarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole hydrochloride in the form of a pinkish solid melting at 250° C. Mass spectrum (EI): m/e 293 (M+.), m/e 206 (base peak).

reactant | sodium | 33.1 mmol, 0.795 g | [Na] | Na
reactant | methanol | 30 mL | CO | CH4O
reactant | guanidine hydrochloride | 31.2 mmol, 2.97 g | Cl.NC(=N)N
reactant | 3-chlorocarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole hydrochloride | 2 g | Cl.ClC(=O)C1=C(N(C=C1)C1=NC2=CC=CC=C2C=C1)C
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
product | 3-guanidinocarbonyl-2-methyl-1-(quinol-2-yl)-1H-pyrrole hydrochloride | 0.82 g | Cl.N(C(=N)N)C(=O)C1=C(N(C=C1)C1=NC2=CC=CC=C2C=C1)C | InChI=1S/C16H15N5O.ClH/c1-10-12(15(22)20-16(17)18)8-9-21(10)14-7-6-11-4-2-3-5-13(11)19-14;/h2-9H,1H3,(H4,17,18,20,22);1H
